US06897310B2
B) 4,5-Dinitro-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene
1-(4,5-Dinitro-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-2,2,2-trifluoro-ethanone (3.7 g, 10.7 mmol) and Na2CO3 (2.3 g, 21.4 mmol) were combined in MeOH (50 mL) and H2O (20 mL) then warmed to reflux for 18 hours. The reaction was cooled, concentrated, treated with H2O and extracted with CH2Cl2 (3×50 mL) then dried through a cotton plug. After concentration, the residue was chromatographed to provide brown solids (1.9 g, 71%) (TLC 5% MeOH/CH2Cl2 (NH3) Rf 0.36). 1H NMR (400 MHz, CDCl3) δ 7.69 (s, 2H), 3.17 (br s, 2H), 3.11 (d, J=12.6 Hz, 2H), 2.53 (m, 1H), 2.07 (d, J=11.0 Hz, 1H). GCMS m/e 249 (M+).

reactant | 1-(4,5-Dinitro-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-2,2,2-trifluoro-ethanone | 10.7 mmol, 3.7 g | [N+](=O)([O-])C1=CC=2C3CN(CC(C2C=C1[N+](=O)[O-])C3)C(C(F)(F)F)=O | C13H10F3N3O5
reactant | Na2CO3 | 21.4 mmol, 2.3 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | H2O | 20 mL | O | H2O
solvent | MeOH | 50 mL | CO | CH4O
product | 4,5-Dinitro-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene | 1.9 g, 71% | [N+](=O)([O-])C1=CC=2C3CNCC(C2C=C1[N+](=O)[O-])C3 | C11H11N3O4
